US08729274B2
cis-2-Benzyl-3a-methyl-6-((Z)-prop-1-enyl)-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole (0.372 mmol, 118 mg) was dissolved in toluene (1 ml) and ACE-Cl (2.60 mmol, 0.286 ml, 372 mg) was added. The reaction mixture was heated to 160° C. for 15 minutes and then MeOH (1 ml) was added and the reaction mixture was heated to 160° C. for a further 5 minutes and then passed through an SCX cartridge and the resulting filtrate was purified by silica column chromatography (eluting with DCM—2, 4, 8, 16% MeOH(NH3)/DCM) The pure fractions were concentrated in vacuo and then 2 N HCl in MeOH added. The resulting solution was concentrated in vacuo to afford cis-3a-methyl-6-((Z)-prop-1-enyl)-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole hydrochloride (85 mg): m/z: 228.1 [M+H]+.

reactant | cis-2-Benzyl-3a-methyl-6-((Z)-prop-1-enyl)-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole | 0.372 mmol, 118 mg | C(C1=CC=CC=C1)N1C[C@]2(CCC3=C([C@H]2C1)C=CC=C3\C=C/C)C | C23H27N
reactant | ACE-Cl | 2.60 mmol, 0.286 ml, 372 mg | CC(OC(=O)Cl)Cl | C3H4Cl2O2
reactant | MeOH | 1 ml | CO | CH4O
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
product | cis-3a-methyl-6-((Z)-prop-1-enyl)-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole hydrochloride | 85 mg | Cl.C[C@@]12CCC3=C([C@H]2CNC1)C=CC=C3\C=C/C | InChI=1S/C16H21N.ClH/c1-3-5-12-6-4-7-14-13(12)8-9-16(2)11-17-10-15(14)16;/h3-7,15,17H,8-11H2,1-2H3;1H/b5-3-;/t15-,16-;/m1./s1
